US04213991
1-[2-Hydroxy-4-(4-methoxyphenyl)-n-butyl]imidazole (2.0 g) was treated with thionyl chloride (10 ml) and the solution stirred for one hour at 60° C. The solvent was then evaporated under reduced pressure and the residue crystallized from ethyl acetate/ether, filtered, washed with ethyl acetate and dried in air to give 1-[2-chloro-4-(4-methoxyphenyl)-n-butyl]imidazole hydrochloride.

reactant | 1-[2-Hydroxy-4-(4-methoxyphenyl)-n-butyl]imidazole | 2.0 g | OC(CN1C=NC=C1)CCC1=CC=C(C=C1)OC | C14H18N2O2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-[2-chloro-4-(4-methoxyphenyl)-n-butyl]imidazole hydrochloride | Cl.ClC(CN1C=NC=C1)CCC1=CC=C(C=C1)OC | InChI=1S/C14H17ClN2O.ClH/c1-18-14-6-3-12(4-7-14)2-5-13(15)10-17-9-8-16-11-17;/h3-4,6-9,11,13H,2,5,10H2,1H3;1H
